US08022209B2
1-[4-(3-Fluoro-4-methyl-phenyl)-pyridin-2-yl]-4-methyl-piperazine
To a microwave tube was added 2-chloro-4-(3-fluoro-4methyl-phenyl)-pyridine (30 mg, 0.14 mmol), 1-methylpiperazine (50 mg, 0.5 mmol), 2-propanol (0.6 mL) and 1 drop concentrated HCl. The resulting mixture was heated at 180° C. for 60 minutes using the microwave instrument. The resulting mixture was extracted with EtOAc. The organic layer was dried and concentrated, and the residue was purified by preparative TLC (hexanes/EtOAc) to yield the title compound as a solid.

reactant | 2-chloro-4-(3-fluoro-4methyl-phenyl)-pyridine | 0.14 mmol, 30 mg | ClC1=NC=CC(=C1)C1=CC(=C(C=C1)C)F | C12H9ClFN
reactant | 1-methylpiperazine | 0.5 mmol, 50 mg | CN1CCNCC1 | C5H12N2
catalyst | HCl | 1 drop | Cl | ClH
solvent | 2-propanol | 0.6 mL | CC(C)O | C3H8O
product | 1-[4-(3-Fluoro-4-methyl-phenyl)-pyridin-2-yl]-4-methyl-piperazine | FC=1C=C(C=CC1C)C1=CC(=NC=C1)N1CCN(CC1)C | C17H20FN3
